US09101616B2
Step-3: Methyl 1-tert-butoxycarbonyl-4-methylindole-2-carboxylate
Di-tert-butyl dicarbonate (0.35 g, 1.6 mmol,) and DMAP (0.015 g, 0.12 mmol) were added to a solution of Methyl 4-methylindole-2-carboxylate (0.15 g, 0.8 mmol) in acetonitrile (7.5 mL). The resulting mixture was stirred at room temperature for 16 h and the solvent evaporated in vacuo. The residue was portioned between ethyl acetate (7.5 mL) and water (7.5 mL). The aqueous layer was further extracted with ethyl acetate (2×7.5 mL) and the organic extracts combined, washed with saturated sodium bicarbonate, dried over sodium sulfate, evaporated in vacuo and purified by silica gel column (EtOAc:hexane=5:95) to give 0.13 g (59% yield) of the title compound as a pale yellow oil:

reactant | Di-tert-butyl dicarbonate | 1.6 mmol, 0.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Methyl 4-methylindole-2-carboxylate | 0.8 mmol, 0.15 g | CC1=C2C=C(NC2=CC=C1)C(=O)OC | C11H11NO2
catalyst | DMAP | 0.12 mmol, 0.015 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 7.5 mL | C(C)#N | C2H3N
product | Methyl 1-tert-butoxycarbonyl-4-methylindole-2-carboxylate | 0.13 g, 59% yield | C(C)(C)(C)OC(=O)N1C(=CC2=C(C=CC=C12)C)C(=O)OC | C16H19NO4
